US06121308
1-methyl-2-[N-(4-(N-benzoylamidino)-phenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole
Prepared analogously to Example 31 from 1-methyl-2-[N-(4-amidino-phenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole and benzoyl chloride.

reactant | 1-methyl-2-[N-(4-amidino-phenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)CNC2=CC=C(C=C2)C(N)=N | C29H29N7O4S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-methyl-2-[N-(4-(N-benzoylamidino)-phenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)CNC2=CC=C(C=C2)C(NC(C2=CC=CC=C2)=O)=N | C36H33N7O5S
